US06544985B2
A mixture of rac-3-(2-bromo-propionyl)-benzoic acid methyl ester (6.78 g) and thioacetamide (5.63 g) was heated to 130° C. for 20 min. The mixture was partitioned between AcOEt and H2O, the organic layer was dried and evaporated and the residual oil was chromatographed on silica gel using AcOEt/hexane (1:4) as eluent to give 3-(2,5-dimethyl-thiazol-4-yl)-benzoic acid methyl ester (4.97 g) as yellow oil.

reactant | rac-3-(2-bromo-propionyl)-benzoic acid methyl ester | 6.78 g | COC(C1=CC(=CC=C1)C(C(C)Br)=O)=O | C11H11BrO3
reactant | thioacetamide | 5.63 g | C(C)(=S)N | C2H5NS
product | 3-(2,5-dimethyl-thiazol-4-yl)-benzoic acid methyl ester | 4.97 g | COC(C1=CC(=CC=C1)C=1N=C(SC1C)C)=O | C13H13NO2S
